US04760163
using sodium 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate and chlorodimethyl ether there is obtained methoxymethyl 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate, 1H--NMR (CDCl3, 400 MHz) 7.93 ppm (d, 1H), 7.36 ppm (d, 1H), 5.45 ppm (s, 2H), 3.54 ppm (s, 3H), 3.41 ppm (s, 3H), 2.95 ppm (m, 2H), 2.81 ppm (m, 2H), 2.17 ppm (m, 2H),

reactant | sodium 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)[O-])C=C(C(=C1)F)N1C(N(C2=C(C1=O)CCC2)C)=O.[Na+]
reactant | chlorodimethyl ether | COCCl | C2H5ClO
product | methoxymethyl 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)OCOC)C=C(C(=C1)F)N1C(N(C2=C(C1=O)CCC2)C)=O | C17H16ClFN2O5
